US07273865B2
To a stirred suspension of 500 mg (1.88 mmol) 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine and 0.46 ml (5.63 mmol) pyridine in 15 ml dichloromethane and 5 ml tetrahydrofuran was added 0.28 ml (2.25 mmol) phenyl chloroformate and stirring continued at 50° C. for 3 h. The reaction mixture was then filtered and the filtrate concentrated in vacuo. Flash chromatography (ethyl acetate/heptane) afforded 535 mg 74%) (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-carbamic acid phenyl ester as a white solid. ES-MS m/e (%): 387 (M+H+, 100).

reactant | 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine | 1.88 mmol, 500 mg | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)N | C11H14N4O2S
reactant | pyridine | 5.63 mmol, 0.46 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 2.25 mmol, 0.28 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC=2C(=NC=C(C2N1)OC)N1CCOCC1)=O | C18H18N4O4S
